US08859571B2
A mixture of 4-fluoro-1-nitro-2-[(2,2,2-trifluoroethyl)oxy]benzene (10 g, 41.8 mmol) in chlorosulfonic acid (82 mL, 125.5 mmol) was stirred at 50° C. for 8 hours before being poured into ice and extracted with EtOAc. The organic extracts were dried (Na2SO4) and concentrated to give 2-fluoro-5-nitro-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonyl chloride (15 g, crude) as a brown oil, which was used directly in the next step.

reactant | 4-fluoro-1-nitro-2-[(2,2,2-trifluoroethyl)oxy]benzene | 41.8 mmol, 10 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OCC(F)(F)F | C8H5F4NO3
reactant | chlorosulfonic acid | 125.5 mmol, 82 mL | ClS(=O)(=O)O | ClHO3S
product | 2-fluoro-5-nitro-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonyl chloride | 15 g | FC1=C(C=C(C(=C1)OCC(F)(F)F)[N+](=O)[O-])S(=O)(=O)Cl | C8H4ClF4NO5S
